US07838543B2
Step 2. 5-(2-Chloro-4-methoxy-phenyl)-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using 5-chloro-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide (0.10 g, 0.26 mmol) and 2-chloro-4-methoxy-phenyl boronic acid (0.057 g, 0.31 mmol) to afford 0.062 g (48%). LC/MS, Retention time=4.89 nm in; (m/z): calcd for C24H25ClN6O2S: 497.0; found: 499.0.

reactant | 5-chloro-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | 0.26 mmol, 0.10 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=NC=C(N=C2)Cl)C)C | C17H19ClN6OS
reactant | 2-chloro-4-methoxy-phenyl boronic acid | 0.31 mmol, 0.057 g | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | 5-(2-Chloro-4-methoxy-phenyl)-pyrazine-2-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=NC=C(N=C2)C2=C(C=C(C=C2)OC)Cl)C)C | C24H25ClN6O2S
